US09126931B2
3-Bromo-6,6-dimethyl-8-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yloxy]-5,6-dihydro-benzo[b]carbazol-11-one (Compound T6-1, 28.0 mg, 52.3 μmol) was dissolved in THF (1.00 mL) and methanol (0.50 mL), added with aqueous solution of potassium hydroxide (1.00 mL, 20 wt %), and stirred at room temperature for 1 hr. The reaction solution was added to water, and extracted with mixture solution of chloroform and methanol, and dried over sodium sulfate. Then, after filtering and concentration under reduced pressure, 3-bromo-6,6-dimethyl-8-(piperidin-4-yloxy)-5,6-dihydro-benzo[b]carbazol-11-one was obtained as a crude product.

reactant | 3-Bromo-6,6-dimethyl-8-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yloxy]-5,6-dihydro-benzo[b]carbazol-11-one | 52.3 μmol, 28.0 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC4CCN(CC4)C(C(F)(F)F)=O)=O | C25H22BrF3N2O3
reactant | potassium hydroxide | 1.00 mL | [OH-].[K+]
reactant | water | O | H2O
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.50 mL | CO | CH4O
product | 3-bromo-6,6-dimethyl-8-(piperidin-4-yloxy)-5,6-dihydro-benzo[b]carbazol-11-one | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC4CCNCC4)=O | C23H23BrN2O2
